US05807863
The intermediate methyl 2-[2,4-dimethyl-6-(1-(2-methylphenyl)-1H-pyrazol-4-yloxy)-pyrimidin-5-yl]-acetate (6.0 g, 17 mmol), sodium hydride (0.9 g, 37 mmol) and N,N-diformylmethylamine (6 ml) in a mixture of dimethylformamide (20 ml) and 1,2-dimethoxyethane (20 ml) is stirred at 45° C. for 3 hours. Methyliodide (4.2 g, 30 mmol) is added at room temperature and stirring is continued for additional 16 hours. Dilution with ether, washing with brine, drying and chromatography on silicagel (eluant ethyl acetate/hexane 3:7) gives methyl 2-[2,4-dimethyl-6-(1-(2-methylphenyl)-1H-pyrazole-4-yloxy)-pyrimidin-5-yl]-3-methoxyacrylate as a colorless oil.

reactant | methyl 2-[2,4-dimethyl-6-(1-(2-methylphenyl)-1H-pyrazol-4-yloxy)-pyrimidin-5-yl]-acetate | 17 mmol, 6.0 g | CC1=NC(=C(C(=N1)C)CC(=O)OC)OC=1C=NN(C1)C1=C(C=CC=C1)C | C19H20N4O3
reactant | sodium hydride | 37 mmol, 0.9 g | [H-].[Na+]
reactant | N,N-diformylmethylamine | 6 ml | C(=O)CNCC=O | C4H7NO2
reactant | Methyliodide | 30 mmol, 4.2 g | CI | CH3I
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
product | methyl 2-[2,4-dimethyl-6-(1-(2-methylphenyl)-1H-pyrazole-4-yloxy)-pyrimidin-5-yl]-3-methoxyacrylate | CC1=NC(=C(C(=N1)C)C(C(=O)OC)=COC)OC=1C=NN(C1)C1=C(C=CC=C1)C | C21H22N4O4
